US05360802
N-[3(R)-5-Cyclohexyl-2,3-dihydro-1-methyl- 2-oxo-1H-1,4-benzodiazepin-3-yl]N'[4-methyl-3-(methylsulphonylaminocarbonyl)phenyl]urea
The title compound was prepared in the same way as that described in Example 33, Step 4, using 2-methyl-1-(methylsulphonylaminocarbonyl)-5-aminobenzene (185 mg, 0.81 mmol), triphosgene (80 mg, 0.27 mmol), triethylamine (0.34 ml, 2.42 mmol), 3(R)-amino-5-cyclohexyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one (0.15 g, 0.56 mmol) and tetrahydrofuran (25 ml). After recrystallisation from methanol, the title compound (135 mg, 46%) was afforded as a colourless solid with >99% e.e. mp 175° C. (dec.). 1H NMR (360 MHz, D6DMSO) δ 1.00-1.41 (4H, m), 1.51-1.71 (4H, m), 1.80-1.86 (1H, m), 1.96-2.04 (1H, m), 2.35 (3H, s), 2.79-2.88 (1H, m), 3.31 (3H, s), 3.40 (3H, s), 5.26 (1H, d, J= 7.5 Hz), 7.08 (1H, d, J=8.3 Hz), 7.30-7.42 (4H, m), 7.54-7.65 (3H, m), 8.94 (1H, s), 11.86 (1H, s). [α]D -7.7° (c=0.44, CH3OH).

reactant | 2-methyl-1-(methylsulphonylaminocarbonyl)-5-aminobenzene | 0.81 mmol, 185 mg | CC1=C(C=C(C=C1)N)C(=O)NS(=O)(=O)C | C9H12N2O3S
reactant | triphosgene | 0.27 mmol, 80 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 2.42 mmol, 0.34 ml | C(C)N(CC)CC | C6H15N
reactant | 3(R)-amino-5-cyclohexyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 0.56 mmol, 0.15 g | N[C@H]1C(N(C2=C(C(=N1)C1CCCCC1)C=CC=C2)C)=O | C16H21N3O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N-[3(R)-5-Cyclohexyl-2,3-dihydro-1-methyl- 2-oxo-1H-1,4-benzodiazepin-3-yl]N'[4-methyl-3-(methylsulphonylaminocarbonyl)phenyl]urea | 135 mg, 46% | C1CCCC(C1)[C@@]1(C(N(C2=C(C=N1)C=CC=C2)C)=O)NC(=O)NC2=CC(=C(C=C2)C)C(=O)NS(=O)(=O)C | C26H31N5O5S
